US08420640B2
A solution of 5-bromo-2-nitrobenzenamine (0.5 g, 2.3 mmol), acetyl chloride (0.18 ml, 2.5 mmol) and potassium carbonate (0.64 g, 4.6 mmol) was stirred at 0° C. for 2 hours. The mixture was washed with water (2×10 ml) and dried over anhydrous sodium sulfate before removing the solvents. Crude N-(5-bromo-2-nitrophenyl)acetamide (0.40 g, 70%) was obtained after removing of the solvents. A solution of N-(5-bromo-2-nitrophenyl)acetamide (0.3 g, 1.1 mmol) and benzoyl piperazine (0.44 g, 2.3 mml) was stirred at 105° C. under argon atmosphere for 16 hours. The reaction was quenched with 500 ml water and extracted with ethyl acetate (2×10 ml). N-(5-(4-benzoylpiperazin-1-yl)-2-nitrophenyl)acetamide (0.4 g, 93%) was obtained after flash column chromatograph (50% ethyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 2.31 (s, 3H), 3.40-3.57 (m, 8H), 6.56 (dd, J=2.8, 9.7 Hz, 1H), 7.48 (m, 5H), 8.21 (d, J=9.7 Hz, 1H), 8.38 (d, J=9.7 Hz, 1H), 11.0 (s, 1H). 13C NMR (125 MHz, CDCl3): δ (ppm) 26.4, 47.1, 47.3, 61.4, 103.8, 108.5, 127.2, 127.6, 129.0, 129.1, 130.7, 135.5, 138.3, 155.7, 170.1, 171.1

reactant | N-(5-bromo-2-nitrophenyl)acetamide | 1.1 mmol, 0.3 g | BrC=1C=CC(=C(C1)NC(C)=O)[N+](=O)[O-] | C8H7BrN2O3
reactant | benzoyl piperazine | 0.44 g | C(C1=CC=CC=C1)(=O)N1CCNCC1 | C11H14N2O
product | N-(5-(4-benzoylpiperazin-1-yl)-2-nitrophenyl)acetamide | 0.4 g, 93% | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C=1C=CC(=C(C1)NC(C)=O)[N+](=O)[O-] | C19H20N4O4
